resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.989259
R2 0 n2 1.012801
R3 0 n4 0.98629
R4 n1 n3 0.990284
R5 n1 n5 0.991514
R6 n2 n3 0.999195
R7 n2 n6 0.983762
R8 n3 n7 0.988946
R9 n4 n5 21.437443
R10 n4 n6 0.997181
R11 n5 n7 0.995512
R12 n6 n7 1.013099
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
